US05939448
To a solution of 1-(2-benzyloxyethyl)thio-2-(2,4-difluorophenyl)-1,1-difluoro-3-(1H-1,2,4-triazol-1-yl)propan-2-ol (1.0 g, 2.2 mmol) in ethanol (20 ml), palladium black (20 mg, catalytic) was added, followed by stirring at room temperature and 1 atmospheric pressure in a hydrogen gas for 12 hours. After the completion of the reaction, an insoluble matter was filtered off. The solvent was then distilled off under reduced pressure. To the residue so obtained, water was added, followed by extraction with chloroform. The chloroform solution was washed with water, dried over magnesium sulfate and then distilled off under reduced pressure. To the residue, isopropyl ether was added for crystallization, whereby 2-(2,4-difluorphenyl)-1,1-difluoro-1-(2-hydroxyethyl)thio-3-(1H-1,2,4-triazol-1-yl)propan-2-ol (0.46 g, yield: 55.0%) was obtained as colorless crystals.

reactant | 1-(2-benzyloxyethyl)thio-2-(2,4-difluorophenyl)-1,1-difluoro-3-(1H-1,2,4-triazol-1-yl)propan-2-ol | 2.2 mmol, 1.0 g | C(C1=CC=CC=C1)OCCSC(C(CN1N=CN=C1)(O)C1=C(C=C(C=C1)F)F)(F)F | C20H19F4N3O2S
reactant | hydrogen | [H][H] | H2
reactant | water | O | H2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium black | 20 mg | [Pd] | Pd
product | 2-(2,4-difluorphenyl)-1,1-difluoro-1-(2-hydroxyethyl)thio-3-(1H-1,2,4-triazol-1-yl)propan-2-ol | 0.46 g, yield: 55.0% | FC1=C(C=CC(=C1)F)C(C(SCCO)(F)F)(CN1N=CN=C1)O | C13H13F4N3O2S
